US07354932B2
Preparation of [2-(tert-butoxycarbonylamino-methyl)-4-hydroxy-but-2-enyl]-carbamic acid tert-butyl ester
To a solution of 4-tert-butoxycarbonylamino-3-(tert-butoxycarbonylamino-methyl)-but-2-enoic acid ethyl ester (7.0 g, 19.5 mmol) in tetrahydrofuran (195 ml), at a reaction temperature of −78° C. (dry ice/acetone) was added a solution of diissobutylaluminum hydride (1 M in CH2Cl2, 59 ml, 59 mmol) and the reaction mixture stirred at −78° C. for 2 hours under a N2 atmosphere. The reaction was quenched with a saturated solution of sodium tartrate tetrahydrate (300 ml), stirred vigorously until the layers clarified then extracted with methylene chloride (2×100 ml). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo to afford a yellow oil. Purification via column chromatography on silica gel (ethyl acetate:hexane, 1:1, v/v) afforded the product as a yellow oil (5.90 g, 96%). 1HNMR (CDCl3) δ 1.43 (s, 18H), 3.72 (s, 4H), 4.18 (t, 2H), 4.76 (s, 1H), 5.54 (s, 1H), 5.96 (t, 1H).

reactant | 4-tert-butoxycarbonylamino-3-(tert-butoxycarbonylamino-methyl)-but-2-enoic acid ethyl ester | 19.5 mmol, 7.0 g | C(C)OC(C=C(CNC(=O)OC(C)(C)C)CNC(=O)OC(C)(C)C)=O | C17H30N2O6
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | hydride | 59 mmol, 1 M, 59 ml | [H-]
solvent | tetrahydrofuran | 195 ml | O1CCCC1 | C4H8O
product | [2-(tert-butoxycarbonylamino-methyl)-4-hydroxy-but-2-enyl]-carbamic acid tert-butyl ester | 5.90 g, 96% | C(C)(C)(C)OC(NCC(=CCO)CNC(=O)OC(C)(C)C)=O | C15H28N2O5
